* C:\Python\pcu_sim\pyspice_examples\ltspice_sch\buck_sch_2019_08_07.asc
V1 Vin 0 28
C1 P001 0 10µ
R1 Vin P001 20m
L1 N001 P002 150µ
D1 0 N001 1N5819
C2 P003 0 22µ
R2 N002 P002 100m
R3 N002 P003 20m
R4 N002 0 5
V2 gate_drive 0 PULSE(0 10 0 1n 1n 1u 5u 200)
M1 N001 N003 Vin Vin FDS6675
R6 N003 Vin 10
S1 0 N003 gate_drive 0 SW
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran .001
.model SW SW(Ron=0.002 Roff=1Meg Vt=3.0)
.backanno
.end
